US05395824
Preparation of N-Benzyloxycarbonyl-L-leucine-[1-(benzimidazol-2-yl)]pentylamide
In 20 ml of methanol was dissolved 1.1 g of N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide obtained in the same manner as in Example 4-(b), and 356 mg of o-phenylenediamine and 0.2 ml of a 50% aqueous solution of acetic acid were added thereto. The mixture was allowed to react at room temperature for 40 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure. The residue was purifled by medium-pressure column chromatography on silica gel to obtain 330 mg of the titled compound as a colorless crystal.

reactant | N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide | 1.1 g | C(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H30N2O4
reactant | o-phenylenediamine | 356 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
product | N-Benzyloxycarbonyl-L-leucine-[1-(benzimidazol-2-yl)]pentylamide | 330 mg | N1=C(NC2=C1C=CC=C2)C(CCCC)NC([C@@H](NC(=O)OCC2=CC=CC=C2)CC(C)C)=O | C26H34N4O3
